US07276516B2
Add sodium azide (1.5 g, 23 mmol, 1.5 equiv) to a solution of methanesulfonic acid tetrahydro-furan-3-ylmethyl ester (2.76 g, 15.3 mmol, 1 equiv) in anhydr DMF (10 mL). Heat the reaction mixture at 50° C. for 16 h. Dilute the reaction mixture with H2O (100 mL) and extract with Et2O (2×50 mL). Wash the combined organic layers with H2O (2×50 mL), dry (anhydr Na2SO4), and rotary evaporate (40° C.) to yield 1.20 g (61.6%) of 3-azidomethyl-tetrahydro-furan as a nearly-colorless liquid.

reactant | sodium azide | 23 mmol, 1.5 g, 1.5 equiv | [N-]=[N+]=[N-].[Na+]
reactant | methanesulfonic acid tetrahydro-furan-3-ylmethyl ester | 15.3 mmol, 2.76 g, 1 equiv | O1CC(CC1)COS(=O)(=O)C | C6H12O4S
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
solvent | H2O | 100 mL | O | H2O
product | 3-azidomethyl-tetrahydro-furan | 1.20 g, 61.6% | N(=[N+]=[N-])CC1COCC1 | C5H9N3O
